* BHV +5V rail - CYCLE-ACCURATE TPS61040 DCM peak-current PFM
* Latch: set when FB<Vref (demand), reset when inductor current hits Ipk.
* Memory is broken out of the algebraic loop with a 1ns RC, which is what the
* first attempt lacked - a bare comparator chatters and collapses the timestep.
.param VBAT=3.7 VF15=0.30
.param IPK=0.400 VREF=1.233
.param CLOAD=220u ESR4=0.15
.param RQ2=0.10 ILEDPK=0.055 LDCR=0.10

Vbat vbat 0 DC {VBAT}
D15  vbat en_in DSCH
C1   en_in 0 4.7u
Rc1  en_in 0 1e6

L1   en_in lxa {3.3u}
Rl1  lxa lxb {LDCR}
Vil  lxb sw DC 0

* --- peak-current PFM latch ---
Bq   qraw 0 V = (i(Vil) > IPK) ? 0 : ((v(fb) < VREF) ? 1 : v(q))
Rq   qraw q 1
Cq   q 0 1n
Ssw  sw 0 q 0 SWMOD
.model SWMOD SW(vt=0.5 vh=0.2 ron=0.35 roff=1e8)

D16  sw out DSCH
.model DSCH D(is=2e-7 rs=0.55 n=1.03 cjo=12p bv=30 eg=0.69 xti=2)

C3   out 0 4.7u
Rc3  out 0 1e6
R1   out fb 620k
C2   out fb 3.3p
R2   fb 0 200k

* Q2 on-resistance into the switched rail, with C4 and its ESR
Rq2  out vled {RQ2}
Rsr  vled c4mid {ESR4}
C4   c4mid 0 {CLOAD}
Rleak vled 0 1e6

* WS2812B load: quiescent, then the animation pulse train at 40 Hz
Iled vled 0 PULSE(0.014 {ILEDPK} 30m 50u 50u 8m 25m)

.options reltol=2e-3 abstol=1e-9 vntol=1e-6 method=gear maxstep=200n
.control
set noaskquit
tran 100n 60m uic
meas tran vout_avg  AVG v(out)  from=20m to=29m
meas tran vout_pp   PP  v(out)  from=20m to=29m
meas tran vled_min  MIN v(vled) from=30m to=60m
meas tran vled_avg  AVG v(vled) from=40m to=60m
meas tran il_peak   MAX i(Vil)  from=20m to=29m
meas tran nsw       AVG v(q)    from=20m to=29m
.endc
.end
